// Generated for: spectre
// Generated on: Apr 27 21:43:22 2018
// Design library name: 6218_Final_Project
// Design cell name: Neural_Amp
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters p5vonly=0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami16N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami16P.m"

// Library name: 6218_Final_Project
// Cell name: OTA
// View name: schematic
subckt OTA Vin Vout Vref inh_inh_bn
    M3 (net2 net2 0 gnd!) ami16N w=12.0u l=44.8u as=4.8e-11 ad=4.8e-11 \
        ps=32.0u pd=32.0u m=1 region=sat
    Mcasn (Vout net023 net12 gnd!) ami16N w=12.0u l=3.2u as=4.8e-11 \
        ad=4.8e-11 ps=32.0u pd=32.0u m=1 region=sat
    M6 (net12 net10 0 gnd!) ami16N w=12.0u l=44.8u as=4.8e-11 ad=4.8e-11 \
        ps=32.0u pd=32.0u m=1 region=sat
    M5 (net1 net2 0 gnd!) ami16N w=12.0u l=44.8u as=4.8e-11 ad=4.8e-11 \
        ps=32.0u pd=32.0u m=1 region=sat
    M4 (net10 net10 0 gnd!) ami16N w=12.0u l=44.8u as=4.8e-11 ad=4.8e-11 \
        ps=32.0u pd=32.0u m=1 region=sat
    M7 (net1 net1 vdd! vdd!) ami16P w=6.4u l=12.8u as=2.56e-11 ad=2.56e-11 \
        ps=20.8u pd=20.8u m=1 region=sat
    M1 (net2 Vin net9 vdd!) ami16P w=800.0000u l=4u as=3.2e-09 ad=3.2e-09 \
        ps=1.608m pd=1.608m m=1 region=subth
    M10 (net9 net14 vdd! vdd!) ami16P w=20u l=20u as=8e-11 ad=8e-11 \
        ps=48.0u pd=48.0u m=1 region=sat
    M9 (net14 net14 vdd! vdd!) ami16P w=20u l=20u as=8e-11 ad=8e-11 \
        ps=48.0u pd=48.0u m=1 region=sat
    Mcasp (Vout net021 net13 vdd!) ami16P w=6.4u l=3.2u as=2.56e-11 \
        ad=2.56e-11 ps=20.8u pd=20.8u m=1 region=sat
    M2 (net10 Vref net9 vdd!) ami16P w=800.0000u l=4u as=3.2e-09 \
        ad=3.2e-09 ps=1.608m pd=1.608m m=1 region=subth
    M8 (net13 net1 vdd! vdd!) ami16P w=6.4u l=12.8u as=2.56e-11 \
        ad=2.56e-11 ps=20.8u pd=20.8u m=1 region=sat
    V8 (vdd! 0) vsource type=dc dc=5
    V3 (net021 0) vsource type=dc dc=2.75
    V2 (net023 0) vsource type=dc dc=1.54
    I2 (net14 0) isource type=dc dc=8u m=1
ends OTA
// End of subcircuit definition.

// Library name: 6218_Final_Project
// Cell name: Neural_Amp
// View name: schematic
P3 (net015 net015 net9 net9) ami16P w=4.05u l=4.05u as=1.62e-11 \
        ad=1.62e-11 ps=16.1u pd=16.1u m=1 region=sat
P1 (net2 net2 net015 net015) ami16P w=4.05u l=4.05u as=1.62e-11 \
        ad=1.62e-11 ps=16.1u pd=16.1u m=1 region=sat
CL (net9 net017) capacitor c=4p m=1
C22 (net2 net9) capacitor c=8p m=1
C11 (net05 net2) capacitor c=900p m=1
V0 (net05 net01) vsource type=sine mag=10m
I4 (net2 net9 net01 0) OTA
V2 (net017 0) vsource type=dc dc=2.5
V1 (net01 0) vsource type=dc dc=2.5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
