// Generated for: spectre
// Generated on: Nov 15 10:46:07 2018
// Design library name: ECE_6240_Digial
// Design cell name: hw3_1_adder_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters p5vonly=0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: ECE_6240_Digial
// Cell name: hw1_1_c_inverter
// View name: schematic
subckt hw1_1_c_inverter VIN VOUT
    P0 (VOUT VIN vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    N0 (VOUT VIN 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
ends hw1_1_c_inverter
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw1_3_CMOS_3_Input_NAND
// View name: schematic
subckt hw1_3_CMOS_3_Input_NAND A B C Out
    P0 (Out A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Out B vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (Out C vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (net20 C 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N1 (net19 B net20 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (Out A net19 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
ends hw1_3_CMOS_3_Input_NAND
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw1_3_CMOS_2_Input_NAND
// View name: schematic
subckt hw1_3_CMOS_2_Input_NAND A B Out
    P0 (Out A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Out B vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (net14 B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (Out A net14 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
ends hw1_3_CMOS_2_Input_NAND
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw1_3_CMOS_3_Input_NOR
// View name: schematic
subckt hw1_3_CMOS_3_Input_NOR A B C Out
    N2 (Out C 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N1 (Out B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (Out A 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (net18 A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (net19 B net18 vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (Out C net19 vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends hw1_3_CMOS_3_Input_NOR
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw1_3_CMOS_2_Input_NOR
// View name: schematic
subckt hw1_3_CMOS_2_Input_NOR A B Out
    N1 (Out B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (Out A 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (net2 A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Out B net2 vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends hw1_3_CMOS_2_Input_NOR
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw3_1_adder
// View name: schematic
subckt hw3_1_adder A B Cin Cout Sum
    I18 (net21 Cout) hw1_1_c_inverter
    I30 (net22 Sum) hw1_1_c_inverter
    I28 (net26 net23) hw1_1_c_inverter
    I27 (net25 net24) hw1_1_c_inverter
    I16 (net30 net20) hw1_1_c_inverter
    I15 (net29 net19) hw1_1_c_inverter
    I14 (net28 net18) hw1_1_c_inverter
    I13 (net27 net17) hw1_1_c_inverter
    I12 (net31 net16) hw1_1_c_inverter
    I11 (net32 net34) hw1_1_c_inverter
    I10 (net33 net15) hw1_1_c_inverter
    I2 (Cin net14) hw1_1_c_inverter
    I1 (B net11) hw1_1_c_inverter
    I0 (A net8) hw1_1_c_inverter
    I6 (A B Cin net27) hw1_3_CMOS_3_Input_NAND
    I5 (net8 net11 Cin net28) hw1_3_CMOS_3_Input_NAND
    I4 (A net11 net14 net29) hw1_3_CMOS_3_Input_NAND
    I3 (net8 B net14 net30) hw1_3_CMOS_3_Input_NAND
    I9 (B Cin net33) hw1_3_CMOS_2_Input_NAND
    I8 (A Cin net32) hw1_3_CMOS_2_Input_NAND
    I7 (A B net31) hw1_3_CMOS_2_Input_NAND
    I17 (net16 net34 net15 net21) hw1_3_CMOS_3_Input_NOR
    I26 (net18 net17 net26) hw1_3_CMOS_2_Input_NOR
    I29 (net24 net23 net22) hw1_3_CMOS_2_Input_NOR
    I25 (net20 net19 net25) hw1_3_CMOS_2_Input_NOR
ends hw3_1_adder
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw3_1_adder_tb
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=5
V3 (C 0) vsource type=pulse dc=5 val0=0 val1=5 period=200u delay=0 \
        rise=500f fall=500f width=100u
V2 (A 0) vsource type=pulse dc=5 val0=0 val1=5 period=50u delay=0 \
        rise=500f fall=500f width=25u
V1 (B 0) vsource type=pulse dc=5 val0=0 val1=5 period=100u delay=0 \
        rise=500f fall=500f width=50u
C1 (Cout 0) capacitor c=4p m=1
C0 (Sum 0) capacitor c=4p m=1
I13 (A B C Cout Sum) hw3_1_adder
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=300u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
